US04954518
30 ml of concentrated hydrochloric acid and 60 ml of acetic acid were added to 3.74 g of 3-cyano-6-(2-fluorophenoxy)-7-methylsulfonylamino-4H-1-benzopyran-4-one. The mixture was refluxed for 30 minutes. After the completion of the reaction, the solvent was removed by distillation under reduced pressure. The residue was washed with water and then recrystallized from acetic acid to obtain 1.65% (yield: 42.1%) of 3-carbamoyl-6-(2-fluorophenoxy)-7-methylsulfonylamino-4H-1-benzopyran-4-one having a melting point of 249°-251° C.

reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | 3-cyano-6-(2-fluorophenoxy)-7-methylsulfonylamino-4H-1-benzopyran-4-one | 3.74 g | C(#N)C1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=C(C=CC=C2)F | C17H11FN2O5S
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 3-carbamoyl-6-(2-fluorophenoxy)-7-methylsulfonylamino-4H-1-benzopyran-4-one | yield: 42.1% | C(N)(=O)C1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=C(C=CC=C2)F | C17H13FN2O6S
